US08748418B2
(S)-5-(5-Bromo-2-fluoro-phenyl)-5,7,7-trimethyl-[1,4]oxazepan-3-one
To a solution of N—[(S)-1-(5-bromo-2-fluoro-phenyl)-3-hydroxy-1,3-dimethyl-butyl]-2-chloro-acetamide (intermediate A15A) (3.11 g, 8.5 mmol) in toluene (150 ml) at 23° C. was added dropwise a solution of potassium amylate (1.7 M in toluene; 25.0 ml, 42 mmol) within 10 min (slightly exothermic). The light brown solution was stirred at 23° C. for 2 h. Diluted with water, 1N HCl and brine and extracted twice with ethyl acetate. The organic layers were washed with sat. NaHCO3 solution and brine, dried over Na2SO4, filtered and evaporated to give a light brown oil, which was purified by silica gel column chromatography with n-heptane/ethyl acetate to give the title compound as an off-white solid (1.05 g, 37%). MS (ISP): m/z=330.0 [(M+H)+] and 332.0 [(M+2+H)+].

reactant | N—[(S)-1-(5-bromo-2-fluoro-phenyl)-3-hydroxy-1,3-dimethyl-butyl]-2-chloro-acetamide | 8.5 mmol, 3.11 g | BrC=1C=CC(=C(C1)[C@@](CC(C)(C)O)(C)NC(CCl)=O)F | C14H18BrClFNO2
reactant | potassium | [K] | K
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | HCl | 1N | Cl | ClH
solvent | brine | [Cl-].[Na+].O
product | (S)-5-(5-Bromo-2-fluoro-phenyl)-5,7,7-trimethyl-[1,4]oxazepan-3-one | 1.05 g, 37% | BrC=1C=CC(=C(C1)[C@]1(NC(COC(C1)(C)C)=O)C)F | C14H17BrFNO2
